US04927926
A mixture of 0.9 g (2.9 mmoles) of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 0.54 g (4.3 mmoles) of 3-hydroxy-3-methylazetidine hydrochloride, 1 g (10.8 mmoles) of triethylamine and 10 ml of pyridine is heated under reflux for 10 hours. The product is cooled, and diluted with water. Filtering and washing yields 0.95 g (89%) of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-methyl-3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate which is then hydrolysed by heating a mixture of 0.38 g (1 mmole) of this ester with 1.5 ml of ethanol, and 8 ml of 0.5N sodium hydroxide under reflux for 3 hours. The mixture is cooled, filtered and acidified with acetic acid.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 2.9 mmoles, 0.9 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | 3-hydroxy-3-methylazetidine hydrochloride | 4.3 mmoles, 0.54 g | Cl.OC1(CNC1)C
reactant | triethylamine | 10.8 mmoles, 1 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-methyl-3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.95 g, 89% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)(O)C)F)=O)C(=O)OCC | C19H20F2N2O4
